US07253171B2
N-Cyclohexyl-N-methyl-2-pentylaminobenzamide
The title compound (1 g, 67%) was obtained as a yellow solid from N-cyclohexyl-N-methylamine and 1-Pentyl-1H-benzo[d][1,3]oxazine-2,4-dione following the same procedure as described in Preparation 7.

reactant | N-cyclohexyl-N-methylamine | C1(CCCCC1)NC | C7H15N
reactant | 1-Pentyl-1H-benzo[d][1,3]oxazine-2,4-dione | C(CCCC)N1C(OC(C2=C1C=CC=C2)=O)=O | C13H15NO3
product | N-Cyclohexyl-N-methyl-2-pentylaminobenzamide | 1 g, 67% | C1(CCCCC1)N(C(C1=C(C=CC=C1)NCCCCC)=O)C | C19H30N2O
